US05455237
3,6-bis(2-Chlorophenyl)-1,2-dihydro-1-methyl-1,2,4,5-tetrazine
The suspension containing 3.74 g (0.026 mol) of methylhydrazine sulfate, 11.9 ml (0.086 mol) of triethylamine in 11.2 ml of abs. ethanol is boiled under reflux while portionwise adding 1.12 g (0.0032 mol) of bis(alpha,2-dichlorobenzylidene)hydrazine.

reactant | methylhydrazine sulfate | 0.026 mol, 3.74 g | S(=O)(=O)(O)O.CNN
reactant | triethylamine | 0.086 mol, 11.9 ml | C(C)N(CC)CC | C6H15N
reactant | bis(alpha,2-dichlorobenzylidene)hydrazine | 0.0032 mol, 1.12 g | ClC(C1=C(C=CC=C1)Cl)=NN=C(C1=C(C=CC=C1)Cl)Cl | C14H8Cl4N2
solvent | ethanol | C(C)O | C2H6O
product | 3,6-bis(2-Chlorophenyl)-1,2-dihydro-1-methyl-1,2,4,5-tetrazine | ClC1=C(C=CC=C1)C=1NN(C(=NN1)C1=C(C=CC=C1)Cl)C | C15H12Cl2N4
